US05679687
4-1) Preparation of N-t-butyl-N-methyl-3-chloropropane sulfonamide
1.74 g(0.02 mol) of t-butylmethylamine and 2 equivalents of triethylamine were dissolved in 100 ml of dichloromethane, which was stirred at 0° C. 3.54 g(0.02 mol) of 3-chloropropane sulfonyl chloride dissolved in 50 ml. of dichloromethane was added dropwise and the mixture was stirred for 1 hour at room temperature. The organic layer was washed with 1N HCl aqueous solution and dried over MgSO4 to obtain 3.31 g of the title compound(yield 73%).

reactant | t-butylmethylamine | 0.02 mol, 1.74 g | C(C)(C)(C)NC | C5H13N
reactant | triethylamine | 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropane sulfonyl chloride | 0.02 mol, 3.54 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-t-butyl-N-methyl-3-chloropropane sulfonamide | 3.31 g, yield 73% | C(C)(C)(C)N(S(=O)(=O)CCCCl)C | C8H18ClNO2S
